US07208493B2
6,7-bis(3-hydroxyphenyl)-pteridin-4-ylamine
2.23 g (10.0 mmol) of 4,5,6-triaminopyrimidine sulfate was added in small portions to a solution of 1.68 g (20.0 mmol) sodium bicarbonate in 50 mL of water with vigorous stirring. A brisk evolution of CO2 gas was observed. The resulting suspension was heated to 80° C. and 2.42 g (10 mmol) of 3,3′-dihydroxybenzil was added to the mixture. The reaction mixture was refluxed for 1 hour, during which time the starting materials completely dissolved and the product precipitated out as a light-yellow solid.

reactant | 4,5,6-triaminopyrimidine sulfate | 10.0 mmol, 2.23 g | S(=O)(=O)(O)O.NC1=NC=NC(=C1N)N
reactant | sodium bicarbonate | 20.0 mmol, 1.68 g | C([O-])(O)=O.[Na+]
reactant | CO2 | C(=O)=O | CO2
reactant | 3,3′-dihydroxybenzil | 10 mmol, 2.42 g | OC=1C=C(C=CC1)C(=O)C(=O)C1=CC(=CC=C1)O | C14H10O4
solvent | water | 50 mL | O | H2O
product | 6,7-bis(3-hydroxyphenyl)-pteridin-4-ylamine | OC=1C=C(C=CC1)C=1N=C2C(=NC=NC2=NC1C1=CC(=CC=C1)O)N | C18H13N5O2
